US04021479
4-(4'-Amino-4-biphenylyl)-4-hydroxy-butyric acid by method E
6 gm (0.02 mol) of 4-(4'-nitro-4-biphenylyl)-4-hydroxy-butyric acid in 200 ml of methanol were hydrogenated in the presence of 3 gm of Raney nickel as a catalyst, at room temperature and at a pressure of 5 atmospheres. After absorption of the calculated quantity of hydrogen, the catalyst was vacuum-filtered off and the solvent was distilled off. The residual 4-(4'-amino-4-biphenylyl)-4-hydroxy-butyric acid, after recrystallization from methanol, had a m.p. of 145° C. (decomp.). Melting point of the cyclohexylamine salt: 178° C. (decomp.; precipitated from ethyl acetate/absolute ethanol). Yield: 5.5 gm.

reactant | 4-(4'-nitro-4-biphenylyl)-4-hydroxy-butyric acid | 0.02 mol, 6 gm | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15NO5
solvent | methanol | 200 ml | CO | CH4O
catalyst | Raney nickel | 3 gm | [Ni] | Ni
product | 4-(4'-Amino-4-biphenylyl)-4-hydroxy-butyric acid | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H17NO3
